US09029411B2
To a solution of 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid (0.38 g, 0.99 mmol) and TEA (0.414 mL, 2.97 mmol) in anhydrous THF (15 mL) was added diphenylphosphoryl azide (0.341 mL, 1.58 mmol) in one portion, under nitrogen. The reaction mixture was allowed to stir at rt overnight, and was concentrated. The residue was purified by column chromatography to give 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carbonyl azide (0.318 g, 79%).

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid | 0.99 mmol, 0.38 g | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H12Cl2N2O3S
reactant | diphenylphosphoryl azide | 1.58 mmol, 0.341 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carbonyl azide | 0.318 g, 79% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)N=[N+]=[N-])C1=C(C=C(C=C1)Cl)Cl | C16H11Cl2N5O2S
